US07618960B2
A solution of 4 N hydrogen chloride in dioxane (10 mL) was added to a solution of tert-butyl [(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]carbamate (2.85 g) in dioxane (10 mL) at room temperature, and the reaction solution was stirred at room temperature for five hours. Hexane (80 mL) was added to the reaction solution at room temperature, and the reaction solution was stirred at room temperature for 20 minutes. The resulting solid was separated by filtration to obtain (1R,2R)-1-amino-1-(3,4,5-trifluorophenyl)propane-2-ol hydrochloride (2.16 g). DIEA (1.59 mL), WSC (880 mg), and HOBT (620 mg) were added to a solution of (E)-5-chloro-2-{1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene}valeric acid trifluoroacetate (1.00 g) and (1R,2R)-1-amino-1-(3,4,5-trifluorophenyl)propan-2-ol hydrochloride (664 mg) in DMF (25 mL) at room temperature, and the reaction solution was stirred at room temperature for one hour. Ethyl acetate was added to the reaction solution, which was then sequentially washed with saturated sodium bicarbonate water, water, a saturated ammonium chloride solution, and brine. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The resulting solid was washed with heptane to obtain (E)-5-chloro-2-{1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene}valeric acid [(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]amide (1.10 g). (E)-5-chloro-2-{1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene}valeric acid [(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]amide (1.10 g) was dissolved in DMF (25 mL). 60% sodium hydride (104 mg) was added to the reaction solution at room temperature, and the reaction solution was stirred at room temperature for one hour. Ethyl acetate was added to the reaction solution, which was then sequentially washed with saturated sodium bicarbonate water, water, a saturated ammonium chloride solution, and brine. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane-ethyl acetate system->ethyl acetate-methanol system), solidified with ethyl acetate and heptane, and separated by filtration to obtain 780 mg of the title compound. The property values of the compound are as follows.

reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | tert-butyl [(1R,2R)-2-hydroxy-1-(3,4,5-trifluorophenyl)propyl]carbamate | 2.85 g | O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NC(OC(C)(C)C)=O)C | C14H18F3NO3
reactant | Hexane | 80 mL | CCCCCC | C6H14
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (1R,2R)-1-amino-1-(3,4,5-trifluorophenyl)propane-2-ol hydrochloride | 2.16 g | Cl.N[C@@H]([C@@H](C)O)C1=CC(=C(C(=C1)F)F)F | InChI=1S/C9H10F3NO.ClH/c1-4(14)9(13)5-2-6(10)8(12)7(11)3-5;/h2-4,9,14H,13H2,1H3;1H/t4-,9+;/m1./s1
